US07579488B2
Preparation of [(5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-amino]-acetic acid
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid (730 mg, 1.672 mmol) in CH2Cl2 (30 mL) and DMAP (612 mg, 5.02 mmol), EDC (481 mg, 2.51 mmol), and glycine methyl ester hydrochloride (313 mg, 2.51 mmol) are reacted and hydrolyzed analogous to Example 7 to yield title compound (401 mg, 47%).

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid | 1.672 mmol, 730 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)O)C1)C)=O)(C)C | C27H32O5
reactant | EDC | 2.51 mmol, 481 mg
reactant | glycine methyl ester hydrochloride | 2.51 mmol, 313 mg | Cl.COC(CN)=O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.02 mmol, 612 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-amino]-acetic acid | 401 mg, 47% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)NCC(=O)O)C1)C)=O)(C)C | C29H35NO6
